US08044083B2
Step H: Preparation of 2-(5-(2-((3-(3-tert-butyl-1-p-tolyl-1H-pyrazol-5-yl)ureido)methyl)-4-fluorophenoxy)-1H-indazol-1-yl)ethyl dihydrogenphosphate 74:
A solution of di-tert-butyl 2-(5-(2-((3-(3-tert-butyl-1-p-tolyl-1H-pyrazol-5-yl)ureido)methyl)-4-fluorophenoxy)-1H-indazol-1-yl)ethyl phosphate (3.66 g, 4.89 mmol) in EtOH (0.2M, 24 mL) was treated with SN HCl/iPrOH (2.93 mL, 14.7 mmol) at room temperature. Stirring at room temperature was continued overnight. The solvent was evaporated in vacuo, and the residue was coevaporated from toluene, and ether (2×). The beige foam was taken in MeOH and poured slowly into a beaker containing water. The precipitated solids were collected by filtration to provide 2.83 g (91%) of the desired product. MS (APCI+) m/z 637 (M+1) was detected. 1H NMR (400 MHz, DMSO-d6) δ 8.30 (s, 1H), 8.00 (s, 1H), 7.71 (d, 1H, J=9 Hz), 6.88-7.37 (m, 10H), 6.24 (s, 1H), 4.61 (br, 1H), 4.28 (d, 2H, J=5.7 Hz), 4.19 (dd, 2H, J=5.2 Hz), 2.35 (s, 3H), 1.25 (s, 9H).

reactant | di-tert-butyl 2-(5-(2-((3-(3-tert-butyl-1-p-tolyl-1H-pyrazol-5-yl)ureido)methyl)-4-fluorophenoxy)-1H-indazol-1-yl)ethyl phosphate | 4.89 mmol, 3.66 g | P(=O)(OC(C)(C)C)(OC(C)(C)C)OCCN1N=CC2=CC(=CC=C12)OC1=C(C=C(C=C1)F)CNC(=O)NC1=CC(=NN1C1=CC=C(C=C1)C)C(C)(C)C | C39H50FN6O6P
reactant | HCl iPrOH | 14.7 mmol, 2.93 mL | Cl.CC(C)O
solvent | EtOH | 0.2M, 24 mL | CCO | C2H6O
product | 2-(5-(2-((3-(3-tert-butyl-1-p-tolyl-1H-pyrazol-5-yl)ureido)methyl)-4-fluorophenoxy)-1H-indazol-1-yl)ethyl dihydrogenphosphate | 2.83 g, 91% | P(=O)(O)(O)OCCN1N=CC2=CC(=CC=C12)OC1=C(C=C(C=C1)F)CNC(=O)NC1=CC(=NN1C1=CC=C(C=C1)C)C(C)(C)C | C31H34FN6O6P
